US03932487
At room temperature, 70 ml. of a 0.2N diazoethane solution in ether is added to a solution of 3.4 g. of 2-(6-carboxyhexyl)-3-heptylthio-cyclopentanone in 25 ml. of dry ethanol. The reaction mixture is poured into 100 ml. of ice water, containing 5 ml. of concentrated HCl, agitated, the organic phase separated, the aqueous phase extracted three times with respectively 30 ml. of chloroform, and the combined organic phases are washed with water, dried over Na2SO4, the solvent is distilled off, and chromatographic purification of the residue (silica gel/chloroform) produces 2-(6-carbethoxyhexyl)-3-heptylthio-cyclopentanone. Rf = 0.7 (silica gel/chloroform).

reactant | diazoethane | 0.2N | [N+](=[N-])=CC | C2H4N2
reactant | 2-(6-carboxyhexyl)-3-heptylthio-cyclopentanone | C(=O)(O)CCCCCCC1C(CCC1SCCCCCCC)=O | C19H34O3S
reactant | ethanol | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(6-carbethoxyhexyl)-3-heptylthio-cyclopentanone | C(=O)(OCC)CCCCCCC1C(CCC1SCCCCCCC)=O | C21H38O3S
